US07956216B2
9A: N-n-propyl 4-bromobenzamide
Using Preparation Method 1, 4-bromobenzoic acid was reacted with n-propylamine. The resulting reaction mixture was purified using SiO2 With 100% CH2Cl2 to give a white solid (67%). NMR1H (ppm, CDCl3): 7.61 (d, J3=8.60 Hz, 2H), 7.54 (d, J3=8.57 Hz, 2H), 6.06 (br. s., 1H), 3.43-3.37 (m, 2H), 1.62 (sext., J3=7.25 Hz, 2H), 0.97 (t, J3=7.39 Hz, 3H).

reactant | 4-bromobenzoic acid | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | n-propylamine | C(CC)N | C3H9N
product | N-n-propyl 4-bromobenzamide | 67% | C(CC)NC(C1=CC=C(C=C1)Br)=O | C10H12BrNO
